US07405221B2
2-Amino-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine
In a 75 mL stainless steel pressure vessel was added 5 mL DMF and 2-methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine (420 mg, 1.0 mmol). Then excess ammonia gas was introduced into the vessel, and the vessel was sealed with a stainless steel nut. The vessel was heated at 120° C. for 18 h. The solvent was removed under high vacuum and product was obtained. HPLC/MS: m/e=351 (M+1); Rt=3.42 min; 1H-NMR 500 MHz (CDCl3): δ 4.8 (bs, 2H), 7.42 (d, J=9 Hz, 1H), 7.5-7.6 (m, 3H), 7.8 (m, 2H), 8.18 (s, 1H).

reactant | 2-methylsulfonyl-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | 1.0 mmol, 420 mg | CS(=O)(=O)C1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C17H11Cl3N2O2S
reactant | ammonia | N | H3N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Amino-4-(2,4-dichlorophenyl)-5-(4-chlorophenyl)pyrimidine | NC1=NC=C(C(=N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)Cl | C16H10Cl3N3
